US04480125
38.7 grams (0.3 mole) of 2-methylenesuccinamic acid, prepared as described in Example 1, were dissolved in 150 ml of chloroform in a 500 ml. 3-necked round bottom flask equipped with a magnetic stirrer, condenser, drying tube, thermometer, and dropping funnel. The solution was cooled to about 5° C. and a mixture of 41.7 ml. (1 equivalent) of triethylamine and 90 ml. of chloroform was added dropwise over 1/2 hour to the stirring solution. The solution was then cooled to about -45° C. by means of a dry ice-acetone bath. A mixture of 28.5 ml. (1 equivalent) of ethyl chloroformate and 70 ml. of chloroform was added to the solution over a 1/2 hour period, maintaining the solution temperature at about -45° C. The reaction mixture was allowed to stir at -45° C., ±15° C., for an additional 2 hours. The reaction mixture was then transferred to a 1-liter 3-necked round bottom flask fitted with a mechanical stirrer, gas inlet, thermometer, condenser, and drying tube. The solution was maintained at -10° C. while ammonia gas was bubbled into the reaction mixture for 1/2 hour. Additional portions of chloroform, totaling 400 ml., were then added. The reaction mixture was allowed to warm to room temperature and the precipitated product was isolated by suction filtration and air-dried overnight. Repeated recrystallizations from water, methanol/water, and water gave 16.3 gms of itaconamide, a white solid melting at 226°-229° C.

reactant | 2-methylenesuccinamic acid | 0.3 mole, 38.7 grams | C=C(C(=O)O)CC(=O)N | C5H7NO3
reactant | triethylamine | 1 equivalent | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 1 equivalent | ClC(=O)OCC | C3H5ClO2
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | itaconamide | 16.3 gms | C(C(=C)CC(=O)N)(=O)N | C5H8N2O2
